US04935493
Boc-Ala-Pro-boroPro-pinacol was prepared by coupling Boc-Ala-Pro-OH to H-boroPro-pinacol. First, the dipeptide, Boc-Ala-Pro-OBzl, was prepared by the mixed anhydride procedure. Boc-Ala-OH (10 g, 52.8 mmoles) was reacted with N-methylmorpholine (5.8 ml, 52.8 mmoles) and isobutyl chloroformate (6.8 ml, 52.8 mmole) for 5 minutes in 50 ml of THF at -20°. The reaction mixture and additional N-methylmorpholine (5.8 ml) were added to H-Pro-OBzl.HCL (12.8 g, 52.8 mmoles) dissolved in 50 ml of cold chloroform. After the mixture was stirred for 1 hour at -20° C. and 2 hours at room temperature, it was filtered and the filtrate evaporated. The residue was dissolved in ethyl acetate and washed sequentially with 0.2N hydrochloric acid, 5% aqueous NaCO3, and saturated aqueous NaCl. The organic phase was dried over anhydrous Na2SO4, filtered, and evaporated to yield Boc-Ala-Pro-OBzl as an oil (14.1 g). The benzyl ester protecting group was removed by dissolving Boc-Ala-Pro-OBzl (35 g, 92.8 mmoles) in 200 ml of methanol and hydrogenating for 1 hour in the presence of 0.5 g of 10% Pd/C. The catalyst was removed by filtration and the solvent evaporated. The residue was crystallized from ethyl acetate to yield 16.1 g of Boc-Ala-Pro-OH (mp 153.5°-154.5° C.).

reactant | Boc-Ala-Pro-OBzl | 92.8 mmoles, 35 g | N([C@@H](C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C20H28N2O5
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | Boc-Ala-Pro-OH | 16.1 g | N([C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C13H22N2O5
